US04472433
(2) Preparation of 2-(2-acetamido-3-phenoxyphenyl)acetic acid
A mixture of ethyl 2-(2-acetamido-3-phenoxyphenyl)acetate (3.65 g.), potassium hydroxide (1.3 g.) and methanol (50 ml.) was stirred for 4 hours at ambient temperature and then for an hour at 40° C. Methanol was distilled off from the reaction mixture under reduced pressure and the residue was dissolved in water. The solution was washed with diethyl ether, adjusted to pH 1.0 with 5% sulfuric acid and extracted with ethyl acetate. The extract was washed with water, dried over magnesium sulfate and then evaporated. The residue was recrystallized from a mixture of ethanol and n-hexane to give white needles of the captioned compound (3.1 g.). mp 155° to 156° C. Thus obtained product was dissolved in an aqueous solution of sodium bicarbonate and the solution was adjusted to pH 1.0 with 10% hydrochloric acid. The precipitates were collected by filtration and dried to give the pure compound (2.5 g.), mp 155° to 156° C.

reactant | ethyl 2-(2-acetamido-3-phenoxyphenyl)acetate | 3.65 g | C(C)(=O)NC1=C(C=CC=C1OC1=CC=CC=C1)CC(=O)OCC | C18H19NO4
reactant | potassium hydroxide | 1.3 g | [OH-].[K+]
reactant | methanol | 50 ml | CO | CH4O
reactant | hydrochloric acid | Cl | ClH
solvent | sodium bicarbonate | C([O-])(O)=O.[Na+]
product | 2-(2-acetamido-3-phenoxyphenyl)acetic acid | C(C)(=O)NC1=C(C=CC=C1OC1=CC=CC=C1)CC(=O)O | C16H15NO4
